US05559230
A mixture of 1-{4-[2-(6-bromohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (2.00 g), sodium acetate (0.36 g), sodium iodide (0.55 g) and acetic acid (20 ml) is refluxed for 1 day. The solvent is distilled off and the resulting residue is extracted with ethyl acetate. The organic layer is washed successively with 2N aqueous sodium hydroxide solution and saturated saline solution, and dried over magnesium sulfate. The solvent is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; chloroform: methanol=500:1), and recrystallized from ethanol to give 1-{4-[2-(6-acetyloxyhexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine (1.07 g) as white powder, m.p. 145°-146° C.

reactant | 1-{4-[2-(6-bromohexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 2.00 g | BrCCCCCCOC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C30H33BrN2O3
reactant | sodium acetate | 0.36 g | C(C)(=O)[O-].[Na+]
reactant | sodium iodide | 0.55 g | [I-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-{4-[2-(6-acetyloxyhexyloxy)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-benzazepine | 1.07 g | C(C)(=O)OCCCCCCOC1=C(C(=O)NC2=CC=C(C(=O)N3CCCCC4=C3C=CC=C4)C=C2)C=CC=C1 | C32H36N2O5
